US08623889B2
Step 2: 2-(2-chlorophenyl)acetaldehyde
A mixture of 1-chloro-2-(2-methoxyvinyl)benzene (2.4 g, 14 mmol) in a solution of 4.0M hydrogen chloride in 1,4-dioxane (36 mL) was stirred for 30 minutes at room temperature. The reaction mixture was then diluted with diethyl ether (100 mL) and treated with saturated aqueous sodium bicarbonate solution (60 mL)—caution: gas evolution. The organic layer was separated, washed with a sodium phosphate buffer (1.0M solution in water, pH=8, 2×40 mL), dried over sodium sulfate, filtered, and evaporated in vacuo to afford the title compound as a colorless oil (2.0 g, 90%), which was used in the next step without further purification.

reactant | 1-chloro-2-(2-methoxyvinyl)benzene | 14 mmol, 2.4 g | ClC1=C(C=CC=C1)C=COC | C9H9ClO
reactant | hydrogen chloride | 4.0M | Cl | ClH
reactant | sodium bicarbonate | 60 mL | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 36 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-(2-chlorophenyl)acetaldehyde | 2.0 g, 90% | ClC1=C(C=CC=C1)CC=O | C8H7ClO
